US04861769
To a solution of ethyl 2-cyclopropyloxyimino-3,3-ethylenedioxybutyrate (syn isomer)(487 mg) in methylene chloride (0.8 ml) was added 90% trifluoroacetic acid (0.8 ml) under ice-cooling. The mixture was stirred at ambient temperature for 2 hours. The mixture was concentrated in vacuo to give a residue. The residue was dissolved in diethyl ether and washed successively with saturated aqueous solution of sodium bicarbonate and water, dried over magnesium sulfate and concentrated in vacuo to give ethyl 2-cyclopropyloxyimino-3-oxobutyrate (syn isomer)(382 mg) as an oil.

reactant | ethyl 2-cyclopropyloxyimino-3,3-ethylenedioxybutyrate | 487 mg | C1(CC1)ON=C(C(=O)OCC)C1(C)OCCO1 | C11H17NO5
reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 0.8 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 2-cyclopropyloxyimino-3-oxobutyrate | 382 mg | C1(CC1)ON=C(C(=O)OCC)C(C)=O | C9H13NO4
